US04537616
5-(1-Methylethyl)-2-(2-pyrrolidinylidene)-1,3-cyclohexanedione
A mixture of 2-ethoxy-1-pyrroline (9.05 grams, 0.08 mole), and 5-(1-methylethyl)-1,3-cyclohexanedione (12.34 grams, 0.08 mole), in 50 mL of isopropyl alcohol solvent is heated under reflux for 2 hours. After standing overnight, the cooled reaction solution will deposit white, crystalline product which is collected, washed with cold solvent and dried to give 2.2 grams of solid, m.p. 143°-145° C. The filtrate is evaporated and the residue dissolved in dichloromethane and the solution extracted with three portions of 3N NaOH followed by three portions of 3N hydrochloric acid. Addition of 3N NaOH to the acid solution causes precipitation of an 0.87-gram portion of product, m.p. 143.5°-145° C. The latter is recrystallized from ethyl acetate for an analytical sample.

reactant | 2-ethoxy-1-pyrroline | 0.08 mole, 9.05 grams | C(C)OC1=NCCC1 | C6H11NO
reactant | 5-(1-methylethyl)-1,3-cyclohexanedione | 0.08 mole, 12.34 grams | CC(C)C1CC(CC(C1)=O)=O | C9H14O2
solvent | isopropyl alcohol | 50 mL | C(C)(C)O | C3H8O
product | 5-(1-Methylethyl)-2-(2-pyrrolidinylidene)-1,3-cyclohexanedione | 2.2 grams | CC(C)C1CC(C(C(C1)=O)=C1NCCC1)=O | C13H19NO2
